US09359371B2
In THF (60 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid (1.0 g, 2.95 mmol), benzylamine (379 mg, 3.54 mmol) and HATU (1.35 g, 3.54 mmol). DIEA (1 mL, 5.9 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 8 h, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate. Then the solvent was removed by rotary evaporation. The obtained solid was purified by silica gel column chromatography (DCM/methanol=50/1). The product was N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-formamide as a faint yellow solid (800 mg, yield 63%).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid | 2.95 mmol, 1.0 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H14ClN3O3S
reactant | benzylamine | 3.54 mmol, 379 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | HATU | 3.54 mmol, 1.35 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5.9 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-formamide | 800 mg, yield 63% | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)SC)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O2S
